US06359143B1
Preparation of 5-acetonyl-3-methylisoxazole
9.70 g of 5-hydroxy-3-methyl-4-(3-methylisooxazol-5-yl)isoxazole was added to 18 ml of acetic acid and 30 ml of methanol, and was heated to 60° C. to dissolve. To the resulting solution was added 3.20 g of electrolytic iron powder to stir for an hour at 60° C. 20 ml of 3N hydrochloric acid was further added to the reaction solution to stir for 20 minutes at 60° C. The reaction mixture was cooled to room temperature and water was added. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated salt water, dried over anhydrous magnesium sulfate and concentrated to give 6.00 g of the title compound as a reddish brown liquid.

reactant | 5-hydroxy-3-methyl-4-(3-methylisooxazol-5-yl)isoxazole | 9.70 g | OC1=C(C(=NO1)C)C1=CC(=NO1)C | C8H8N2O3
reactant | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 30 ml | CO | CH4O
reactant | hydrochloric acid | 3N, 20 ml | Cl | ClH
catalyst | iron | 3.20 g | [Fe] | Fe
solvent | water | O | H2O
product | 5-acetonyl-3-methylisoxazole | 6.00 g | C(C(=O)C)C1=CC(=NO1)C | C7H9NO2
